US07741327B2
In a round bottom flask was placed 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1-H-pyrazol-3-yl]-4,4-difluoro-butyramide (180 mg, 0.35 mmol), methanol (5 mL) and p-toluenesulfonic acid hydrate (20 mg). The mixture was stirred at 25° C. for 16 h and then diluted with dichloromethane and concentrated in vacuo with silica gel (2 g). Purification by Biotage flash chromatography (Aspire, 40 g column, 100% ethyl acetate to 5% methanol/ethyl acetate) afforded 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-4,4-difluoro-butyramide (109 mg, 66%) as a white foam: HR-ES-MS m/z calculated for C20H21N4O5ClF2 [M+Na]+ 493.1061, observed 493.1057; 1H NMR (300 MHz, DMSO-d6) δ ppm 2.43 (m, 2H), 3.19-3.31 (m, 2H), 3.76 (br. s., 1H), 3.85 (dd, J=13.3, 7.8 Hz, 1H), 4.08 (dd, J=13.3, 3.8 Hz, 1H), 4.35 (d, J=18.4 Hz, 1H), 4.45 (d, J=18.4 Hz, 1H), 4.70 (t, J=5.6 Hz, 1H), 4.81 (s, 1H), 4.93 (d, J=5.1 Hz, 1H), 4.94-5.02 (m, 1H), 6.10 (tt, J=56.1, 4.2 Hz, 1H), 6.40 (d, J=2.1 Hz, 1H), 7.31-7.39 (m, 1H), 7.41-7.52 (m, 2H), 7.53 (d, J=2.1 Hz, 1H), 7.64 (d, J=7.5 Hz, 1H), 10.76 (s, 1H).

reactant | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1-H-pyrazol-3-yl]-4,4-difluoro-butyramide | 0.35 mmol, 180 mg | ClC1=C(OC2=CC(N(C2)C(C(=O)NC2=NN(C=C2)C[C@H]2OC(OC2)(C)C)CC(F)F)=O)C=CC=C1 | C23H25ClF2N4O5
reactant | methanol | 5 mL | CO | CH4O
reactant | p-toluenesulfonic acid hydrate | 20 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-4,4-difluoro-butyramide | 109 mg, 66% | ClC1=C(OC2=CC(N(C2)C(C(=O)NC2=NN(C=C2)C[C@H](CO)O)CC(F)F)=O)C=CC=C1 | C20H21ClF2N4O5
